US07754744B2
Step 2: 6-(Piperidin-4-ylamino)-nicotinamide dihydrochloride
A solution of 4-(5-carbamoyl-pyridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (0.63 g, 1.97 mmol) in 4 M HCl in dioxane (20 mL) was stirred at rt for 1 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 221.4 [M+H]+.

reactant | 4-(5-carbamoyl-pyridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 1.97 mmol, 0.63 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=C(C=C1)C(N)=O | C16H24N4O3
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 6-(Piperidin-4-ylamino)-nicotinamide dihydrochloride | Cl.Cl.N1CCC(CC1)NC1=NC=C(C(=O)N)C=C1 | InChI=1S/C11H16N4O.2ClH/c12-11(16)8-1-2-10(14-7-8)15-9-3-5-13-6-4-9;;/h1-2,7,9,13H,3-6H2,(H2,12,16)(H,14,15);2*1H
